US09029560B2
Preparation of tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate (C50)
To a solution of 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C52) (0.13 g, 0.32 mmol) in toluene (4 mL) and water (1 mL) was added potassium (2-((tert-butoxycarbonyl)amino)ethyl)trifluoroborate (0.082 g, 0.33 mmol), palladium(II) acetate (0.027 g, 0.027 mmol), cesium carbonate (0.33 g, 1.0 mmol), and dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine (0.016 g, 0.034 mmol), and the solution was stirred under nitrogen and heated to 95° C. for 8 hours. The solution was then cooled and diluted with diethyl ether (5 mL) and adsorbed onto a silica gel pre-column. Flash column chromatography using 0-50% ethyl acetate/hexanes as eluent furnished the title compound as a light tan solid (0.095 g, 63%): mp 149-153° C.; 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.18-8.10 (m, 2H), 7.84-7.77 (m, 2H), 7.43-7.35 (m, 2H), 7.31 (d, J=8.2 Hz, 2H), 4.58 (d, J=8.1 Hz, 1H), 3.49-3.34 (m, 1H), 2.87 (t, J=7.0 Hz, 1H), 1.44 (s, 9H); ESIMS m/z 449 ([M+H]+).

reactant | 3-(4-bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 0.32 mmol, 0.13 g | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C15H9BrF3N3O
reactant | potassium (2-((tert-butoxycarbonyl)amino)ethyl)trifluoroborate | 0.33 mmol, 0.082 g | C(C)(C)(C)OC(=O)NCC[B-](F)(F)F.[K+]
reactant | cesium carbonate | 1.0 mmol, 0.33 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dicyclohexyl(2′,6′-diisopropoxy-[1,1′-biphenyl]-2-yl)phosphine | 0.034 mmol, 0.016 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC(C)C)OC(C)C)C1CCCCC1 | C30H43O2P
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 mL | O | H2O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
catalyst | palladium(II) acetate | 0.027 mmol, 0.027 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | tert-butyl 4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenethylcarbamate | 0.095 g, 63% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(CCNC(OC(C)(C)C)=O)C=C1)(F)F | C22H23F3N4O3
